* Noise Analysis, 13k bandPass, 10th order Butterworth, 5 stages using AD8542

* Input signal for Noise Analysis
* VIN IN 0 AC 1 SINE(0 687m 1.08k)
VNOISE IN 0 AC 0 DC 1.5

XA IN OUTA VCCG VEEG VREF deliyannisFriendbandPassStageA
XB OUTA OUTB VCCG VEEG VREF deliyannisFriendbandPassStageB
XC OUTB OUTC VCCG VEEG VREF deliyannisFriendbandPassStageC
XD OUTC OUTD VCCG VEEG VREF deliyannisFriendbandPassStageD
XE OUTD OUT VCCG VEEG VREF deliyannisFriendbandPassStageE

VP VCCG 0 3
VM VEEG 0 0
VR VREF 0 1.5

*Simulation directive lines for Noise Analysis
.NOISE V(OUT) VNOISE DEC 100 1.09k 45.1k
*.TRAN 1n 1.2m
*.AC DEC 100 1.09k 45.1k
.SUBCKT deliyannisFriendbandPassStageA IN OUT VCC VEE REF
X1 REF INM VCC VEE OUT AD8542
R1 IN 1 17.8k
R2 1 REF 6.75E3
R5 INM OUT 21.5k
C1 1 OUT 1n
C2 1 INM 4.7n
.ENDS deliyannisFriendbandPassStageA

.SUBCKT deliyannisFriendbandPassStageB IN OUT VCC VEE REF
X1 REF INM VCC VEE OUT AD8542
R1 IN 1 4.64k
R2 1 REF 3.92k
R5 INM OUT 41.2k
C1 1 OUT 1n
C2 1 INM 1n
.ENDS deliyannisFriendbandPassStageB

.SUBCKT deliyannisFriendbandPassStageC IN OUT VCC VEE REF
X1 REF INM VCC VEE OUT AD8542
R1 IN 1 26.7k
R2 1 REF 20.5k
R5 INM OUT 237k
C1 1 OUT 1n
C2 1 INM 1n
.ENDS deliyannisFriendbandPassStageC

.SUBCKT deliyannisFriendbandPassStageD IN OUT VCC VEE REF
X1 REF INM VCC VEE OUT AD8542
R1 IN 1 6.98k
R2 1 REF 6.75E3
R5 INM OUT 16.9k
C1 1 OUT 1n
C2 1 INM 1.6n
.ENDS deliyannisFriendbandPassStageD

.SUBCKT deliyannisFriendbandPassStageE IN OUT VCC VEE REF
X1 REF INM VCC VEE OUT AD8542
R1 IN 1 28k
R2 1 REF 6.75E3
R5 INM OUT 69.8k
C1 1 OUT 1n
C2 1 INM 1.6n
.ENDS deliyannisFriendbandPassStageE

* AD8542 SPICE Macro-model Typical Values
* Description: Amplifier
* Generic Desc: 2.7/5V, CMOS, OP, Low Pwr, RRIO, 2X
* Developed by: TAM / ADSC
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (06/1998)
* Copyright 1998, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
*
* END Notes
*
* Node Assignments
*		noninverting input
*		|	inverting input
*		|	|	 positive supply
*		|	|	 |	 negative supply
*		|	|	 |	 |	 output
*		|	|	 |	 |	 |
*		|	|	 |	 |	 |
.SUBCKT AD8542	1	2	99	50	45
*
* INPUT STAGE
*
M1   4  1 8 8 PIX L=0.6E-6 W=16E-6
M2   6  7 8 8 PIX L=0.6E-6 W=16E-6
M3  11  1 10 10 NIX L=0.6E-6 W=16E-6
M4  12  7 10 10 NIX L=0.6E-6 W=16E-6
RC1  4 50 20E3
RC2  6 50 20E3
RC3 99 11 20E3
RC4 99 12 20E3
C1   4  6 1.5E-12
C2  11 12 1.5E-12
I1  99  8 1E-5
I2  10 50 1E-5
V1  99  9 0.2
V2  13 50 0.2
D1   8  9 DX
D2  13 10 DX
EOS  7  2 POLY(3) (22,98) (73,98) (81,0) 1E-3 1 1 1
IOS  1  2 2.5E-12
*
* CMRR 64dB, ZERO AT 20kHz
*
ECM1 21 98 POLY(2) (1,98) (2,98) 0 .5 .5
RCM1 21 22 79.6E3
CCM1 21 22 100E-12
RCM2 22 98 50
*
* PSRR=90dB, ZERO AT 200Hz
*
RPS1 70  0 1E6
RPS2 71  0 1E6
CPS1 99 70 1E-5
CPS2 50 71 1E-5
EPSY 98 72 POLY(2) (70,0) (0,71) 0 1 1
RPS3 72 73 1.59E6
CPS3 72 73 500E-12
RPS4 73 98 25
*
* VOLTAGE NOISE REFERENCE OF 35nV/rt(Hz)
*
VN1 80 0 0
RN1 80 0 16.45E-3
HN  81 0 VN1 35
RN2 81 0 1
*
* INTERNAL VOLTAGE REFERENCE
*
VFIX 90 98 DC 1
S1   90 91 (50,99) VSY_SWITCH
VSN1 91 92 DC 0
RSY  92 98 1E3
EREF 98  0 POLY(2) (99,0) (50,0) 0 .5 .5
GSY  99 50 POLY(1) (99,50) 0 3.7E-6
*
* ADAPTIVE GAIN STAGE
* AT Vsy>+4.2, AVol=45  V/mv
* AT Vsy<+3.8, AVol=450 V/mv
*
G1  98 30 POLY(2) (4,6) (11,12) 0 2.5E-5 2.5E-5
VR1 30 31 DC 0
H1  31 98 POLY(2) VR1 VSN1 0 5.45E6 0 0 49.05E9
CF  45 30 10E-12
D3  30 99 DX
D4  50 30 DX
*
* OUTPUT STAGE
*
M5  45 46 99 99 POX L=0.6E-6 W=375E-6
M6  45 47 50 50 NOX L=0.6E-6 W=500E-6
EG1 99 46 POLY(1) (98,30) 1.05 1
EG2 47 50 POLY(1) (30,98) 1.04 1
*
* MODELS
*
.MODEL POX PMOS (LEVEL=2,KP=20E-6,VTO=-1,LAMBDA=0.067)
.MODEL NOX NMOS (LEVEL=2,KP=20E-6,VTO=1,LAMBDA=0.067)
.MODEL PIX PMOS (LEVEL=2,KP=20E-6,VTO=-0.7,LAMBDA=0.01,KF=1E-31)
.MODEL NIX NMOS (LEVEL=2,KP=20E-6,VTO=0.7,LAMBDA=0.01,KF=1E-31)
.MODEL DX D(IS=1E-14)
.MODEL VSY_SWITCH VSWITCH(ROFF=100E3,RON=1,VOFF=-4.2,VON=-3.5)
.ENDS AD8542




